US07557214B2
Step 1: (4-Benzyloxy-3-fluorophenyl)-carbamic acid benzyl ester
A mixture of 34.9 g of 1-benzyloxy-2-fluoro-4-nitrobenzene (WO 03 064413) (MW: 247.28, 141 mmol) and 340 mg of platinum (5% on activated carbon) in 350 ml of ethyl acetate was stirred at RT and normal pressure under a hydrogen atmosphere. The course of the reaction was monitored by HPLC and the reaction was terminated after 20 h. The catalyst was filtered off and the filtrate was concentrated to dryness under reduced pressure using a rotary evaporator. The oily residue was dissolved in 500 ml of acetone and 250 ml of a saturated sodium hydrogen carbonate solution and 17.5 g of sodium hydrogen carbonate (MW: 84.01, 208 mmol) were added. The mixture was cooled to 5° C. and 26.08 g of benzyl chloroformate (MW: 170.59, 152 mmol) were added dropwise. The mixture was then stirred for 2 h at RT and the course of the reaction was monitored by TLC (hexane/ethyl acetate 3:1). The acetone was removed under reduced pressure, 500 ml of water were added to the residue, and the solid material was filtered off. The crystals were washed with 500 ml of water and dried.

reactant | 1-benzyloxy-2-fluoro-4-nitrobenzene | 141 mmol, 34.9 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H10FNO3
reactant | sodium hydrogen carbonate | 250 ml | C(O)([O-])=O.[Na+]
reactant | sodium hydrogen carbonate | 208 mmol, 17.5 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 152 mmol, 26.08 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum | 340 mg | [Pt] | Pt
product | (4-Benzyloxy-3-fluorophenyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)OCC1=CC=CC=C1)F)=O | C21H18FNO3
